US07678801B2
3-[2-(4-amino-1-piperidinyl)-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-cyclopropyl-4-methylbenzamide
The title compound is prepared from compound N-cyclopropyl-3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide and 4-piperidinamine by following the General Procedure for Sulfoxide/Sulfone/Sulfone Displacement, as disclosed above. The concentrated reaction mixture is precipitated with ethyl acetate/hexanes, and filtered. The desired product is obtained as a yellow solid (75 mg, 100%) 94% pure by HPLC: LC-MS m/z 531 (M+H)+, 1.65 min (ret time).

reactant | N-cyclopropyl-3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C2=C(N=C(N1)S(=O)(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F)=O | C25H20F2N4O4S
reactant | 4-piperidinamine | N1CCC(CC1)N | C5H12N2
product | 3-[2-(4-amino-1-piperidinyl)-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-cyclopropyl-4-methylbenzamide | NC1CCN(CC1)C=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)NC1CC1)C=CC2C | C29H28F2N6O2
